US08053454B2
Step 3: N-{2-[(Phenylmethyl)amino]-5-(1H-tetrazol-5-yl)pyrimidin-4-yl}thiophene-2-carboxamide
To a solution of N2-Benzyl-5-(1H-tetrazol-5-yl)pyrimidine-2,4-diamine (27 mg, 0.1 mmol) in 1 mL of DCE, DIPEA (0.3 mmol, 3.0 eq.) was added followed by thiophene-2-carbonyl chloride (0.15 mmol, 1.5 eq.). The reaction was stirred at room temperature for 2 hours. The crude reaction mixture was concentrated down in vacuo, and the residue redissolved in ethylacetate. This organic solution was extracted several times with water, dried with magnesium sulfate, filtered and concentrated. The residue was purified by reverse phase HPLC to give 4.8 mg of the desired compound. 1H-NMR (400 MHz, d6-DMSO): δ 9.07 (t, 1H), 7.81 (dd, 1H), 7.77 (dd, 1H), 7.36-7.29 (m, 4H), 7.28-7.23 (m, 1H), 7.16 (t, 1H), 4.45 (d, 2H). MS (EI) for C17H14N8OS: 379 (M+H).

reactant | N2-Benzyl-5-(1H-tetrazol-5-yl)pyrimidine-2,4-diamine | 0.1 mmol, 27 mg | C(C1=CC=CC=C1)NC1=NC=C(C(=N1)N)C1=NN=NN1 | C12H12N8
reactant | DIPEA | 0.3 mmol, 3.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophene-2-carbonyl chloride | 0.15 mmol, 1.5 eq. | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | N-{2-[(Phenylmethyl)amino]-5-(1H-tetrazol-5-yl)pyrimidin-4-yl}thiophene-2-carboxamide | 4.8 mg | C1(=CC=CC=C1)CNC1=NC=C(C(=N1)NC(=O)C=1SC=CC1)C1=NN=NN1 | C17H14N8OS
